US07704996B2
To a solution of 4-[2-(5-benzylcarbamoyl-6-chloro-2-cyanopyrimidin-4-yloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester (0.23 mmol) in CH3CN (5 mL), C-spiro[2.5]oct-6-yl-methylamine hydrochloride (0.25 mmol) and K2CO3 (0.7 mmol) are added at room temperature. After warmed up to 70° C., the reaction mixture is stirred over night. The mixture is diluted with H2O and AcOEt, and extracted twice with AcOEt. The organic layer is dried over Na2SO4, filtered, and concentrated to give 4-(2-{5-benzylcarbamoyl-2-cyano-6-[(spiro[2.5]oct-6-ylmethyl)amino]pyrimidin-4-yloxy}ethyl)piperidine-1-carboxylic acid tert-butyl ester as a white solid; 1H-NMR (CDCl3), δ 0.17-0.30 (4H, m), 0.89-1.06 (4H, m), 1.14-1.38 (3H, m), 1.46 (9H, s), 1.49-1.79 (9H, m), 2.51 (2H, br t), 3.42 (2H, t), 4.00 (2H, m), 4.45 (2H, t), 4.55 (2H, d), 7.30-7.39 (5H, m), 8.12 (1H, t), 10.16 (1H, t).

reactant | 4-[2-(5-benzylcarbamoyl-6-chloro-2-cyanopyrimidin-4-yloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester | 0.23 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=NC(=NC(=C1C(NCC1=CC=CC=C1)=O)Cl)C#N | C25H30ClN5O4
reactant | C-spiro[2.5]oct-6-yl-methylamine hydrochloride | 0.25 mmol | Cl.C1CC12CCC(CC2)CN
reactant | K2CO3 | 0.7 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 5 mL | CC#N | C2H3N
solvent | H2O | O | H2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-(2-{5-benzylcarbamoyl-2-cyano-6-[(spiro[2.5]oct-6-ylmethyl)amino]pyrimidin-4-yloxy}ethyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=NC(=NC(=C1C(NCC1=CC=CC=C1)=O)NCC1CCC2(CC2)CC1)C#N | C34H46N6O4
